US09233946B2
5-Chloro-3-methyl-N-[3-(1H-tetrazol-5-yl)phenyl]-1-benzothiophene-2-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, starting from 5-chloro-3-methyl-benzothiophene-2-sulfonyl chloride (15 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8 mg, 0.05 mmol) giving 8 mg (40%) of the title product. MS (ESI+) calcd for C16H12ClN5O2S2 405.012094, found 405.012744.

reactant | 5-chloro-3-methyl-benzothiophene-2-sulfonyl chloride | 0.055 mmol, 15 mg | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)Cl)C)C1 | C9H6Cl2O2S2
reactant | 5-(3-aminophenyl)tetrazole | 0.05 mmol, 8 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 5-Chloro-3-methyl-N-[3-(1H-tetrazol-5-yl)phenyl]-1-benzothiophene-2-sulfonamide | 8 mg, 40% | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC2=CC(=CC=C2)C2=NN=NN2)C)C1 | C16H12ClN5O2S2
